US06423699B1
8-(3—Chloro-phenyl-1,2,3,3a-tetrahydro-5H-pyrrolo[1,2-a]quinoxalin-4-one
A solution of 8-bromo-1,2,3,3a-tetrahydro-5H-pyrrolo(1,2-a)quinoxalin-4-one (2.7 g, 10 mmol), 3-chlorophenyl boronic acid (1.6 g, 10 mmol), potassium carbonate (4 g, 30 mmol), and tetrakis(triphenylphosphine) palladium(0) (0.5 g, 0.43 mmol) in dimethoxyethane (100 ml), ethanol (25 ml), and water (25 ml) was heated to reflux for 6 hours. After cooling to room temperature, the mixture was diluted with water and extracted with EtOAc (3×60 mL). The combined organic extracts were washed with water, then brine, dried (MgSO4) and evaporated. The crude product (1.5 g) was recrystallized from EtOAc/hexane to afford the title compound (0.2 g, 7%): mp 210° C.; MS (+APCI) m/z 299 ((M+H)+).

reactant | 8-bromo-1,2,3,3a-tetrahydro-5H-pyrrolo(1,2-a)quinoxalin-4-one | 10 mmol, 2.7 g | BrC1=CC=C2NC(C3N(C2=C1)CCC3)=O | C11H11BrN2O
reactant | 3-chlorophenyl boronic acid | 10 mmol, 1.6 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 30 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.43 mmol, 0.5 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 25 ml | O | H2O
product | 3—Chloro-phenyl-1,2,3,3a-tetrahydro-5H-pyrrolo[1,2-a]quinoxalin-4-one | 0.2 g, 7% | ClC=1C=C(C=CC1)C1CCC2N1C1=CC=CC=C1NC2=O | C17H15ClN2O
